US20010018525A1
Step 2 3,5-Bis-phenyl-4-hydroxybenzoic acid methyl ester
To a stirred solution of phenylboronic acid (4.95 g, 40.57 mmol), Ba(OH)2.H 2O (10.48 g, 55.33 mmol), and Pd(OAc)2 (0.414 g, 1.84 mmol) in DME/H2O (110 mL/20 mL) was added 3,5-diiodo-4-hydroxybenzoic acid methyl ester (7.45 g, 18.44 mmol). The mixture was stirred at 85° C. for 3 h and was then cooled and concentrated. The residue was partitioned between ethyl acetate/2N HCl. The organic phase was dried (MgSO4) and concentrated to give a solid which was triturated with diethyl ether/petroleum ether to give 3.51 g (62.5%) of product as a white solid. 1H NMR (DMSO-d6) δ9.27 (s, 1H), 7.27 (s, 2H), 7.25-7.40 (m, 10H), 3.81 (s, 3H).

reactant | phenylboronic acid | 40.57 mmol, 4.95 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 3,5-diiodo-4-hydroxybenzoic acid methyl ester | 18.44 mmol, 7.45 g | COC(C1=CC(=C(C(=C1)I)O)I)=O | C8H6I2O3
solvent | DME H2O | 110 mL | COCCOC.O
catalyst | Pd(OAc)2 | 1.84 mmol, 0.414 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3,5-Bis-phenyl-4-hydroxybenzoic acid methyl ester | 3.51 g, 62.5% | COC(C1=CC(=C(C(=C1)C1=CC=CC=C1)O)C1=CC=CC=C1)=O | C20H16O3
